US07829580B2
(d) (E)-4-(t-Butyldimethylsilyloxy)-3-[(1,3-oxazol-5-yl)methylidene]-1-(triphenylmethyl)piperidine
To a solution of (E)-4-(t-butyldimethylsilyloxy)-3-(formylmethylidene)-1-(triphenylmethyl)piperidine (112 mg) in methanol (2.5 ml) were added successively p-toluenesulfonylmethyl isocyanide (45 mg) and potassium carbonate (32 mg), and the resulting mixture was refluxed for 3.5 hours. After refluxing, water was added to the reaction mixture, and the resulting mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium chloride solution, and the organic layer was dried over anhydrous sodium sulfate. The solvent was removed in vacuo, and the residue was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:19 to 1:3) as the eluent to afford the title compound (40 mg, yield: 32%) as a yellow oil.

reactant | (E)-4-(t-butyldimethylsilyloxy)-3-(formylmethylidene)-1-(triphenylmethyl)piperidine | 112 mg | [Si](C)(C)(C(C)(C)C)OC1/C(/CN(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=C/C=O | C32H39NO2Si
reactant | p-toluenesulfonylmethyl isocyanide | 45 mg | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | potassium carbonate | 32 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | methanol | 2.5 ml | CO | CH4O
product | (E)-4-(t-Butyldimethylsilyloxy)-3-[(1,3-oxazol-5-yl)methylidene]-1-(triphenylmethyl)piperidine | 40 mg, yield: 32% | [Si](C)(C)(C(C)(C)C)OC1/C(/CN(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=C/C1=CN=CO1 | C34H40N2O2Si
